US04927838
A solution of 1-butyl-5-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester in a mixture of tetrahydrofuran (25 mL) and ethanol (75 mL) was hydrogenated over 10% palladium on carbon (1.3 g) at 50° C. and three atmospheres. After the uptake of hydrogen had stopped, the catalyst was removed by filtration and the filtrate was concentrated to dryness. The resulting material was dissolved in diethyl ether (150 mL) and the solution extracted with 1N sodium hydroxide (2×50 mL). After the base extracts were backwashed with diethyl ether, the combined organic layers were dried (MgSO4) and evaporated to yield 3.6 g of 1-butyl-5-methoxy-2-naphthalenecarboxylic acid ethyl ester as an oil. A portion was distilled on a Kugelrohr apparatus (140° C.; 0.1 mm) to furnish the analytical sample. Anal. Calcd for C18H22O3 : C, 75.50; H, 7.74 Found: C, 75.02; H, 7.97

reactant | 1-butyl-5-methoxy-4-[(1-phenyl-1H-tetrazole-5-yl)oxy]-2-naphthalenecarboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=CC=CC(=C2C(=C1)OC1=NN=NN1C1=CC=CC=C1)OC)CCCC | C25H26N4O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.3 g | [Pd] | Pd
product | 1-butyl-5-methoxy-2-naphthalenecarboxylic acid ethyl ester | 3.6 g | C(C)OC(=O)C1=C(C2=CC=CC(=C2C=C1)OC)CCCC | C18H22O3
